US05753595
A stirring solution of 3.8 grams (10 mmole) of 3-(2-oxo-4-chloro-6-fluoro-2,3-dihydrobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione and 7.7 grams (50 mmole) of phosphorus oxychloride is cooled in an ice bath. To this 5.0 grams (49.4 mmole) of triethylamine is added via syringe during a ten minute period. At the conclusion of this period the reaction mixture is heated to reflux where it stirs for four hours. After this period the reaction mixture is cooled to ambient temperature and poured into ice water. The resulting mixture is extracted with portions of diethyl ether. The extracts are combined, washed with an aqueous saturated sodium bicarbonate solution, dried with sodium sulfate, and filtered. The filtrate is concentrated under reduced pressure, yielding 3-(2,4-dichloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione.

reactant | 3-(2-oxo-4-chloro-6-fluoro-2,3-dihydrobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione | 10 mmole, 3.8 grams | O=C1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C13H6ClF4N3O4
reactant | phosphorus oxychloride | 50 mmole, 7.7 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 49.4 mmole, 5.0 grams | C(C)N(CC)CC | C6H15N
product | 3-(2,4-dichloro-6-fluorobenzoxazol-7-yl)-1-methyl-6-trifluoromethyl-2,4-(1H,3H)pyrimidinedione | ClC=1OC2=C(N1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C13H5Cl2F4N3O3
